US04289765
2. 4-(5-Bromo-2,6-dimethyl-3-nitro-4-pyridyl)-thiomorpholine
11.68 Grams (0.044 mol) of 5-bromo-4-chloro-2,6-dimethyl-3-nitro-pyridine and 9.11 g (0.088 mol) of thiomorpholine are heated at boiling point for 18 hours in 50 ml of isopropanol. Upon completion of the reaction the solvent is removed, the residue is digested with water, and the yellow precipitate is filtered off with suction and recrystallized from isopropanol.

reactant | 5-bromo-4-chloro-2,6-dimethyl-3-nitro-pyridine | 0.044 mol | BrC=1C(=C(C(=NC1C)C)[N+](=O)[O-])Cl | C7H6BrClN2O2
reactant | thiomorpholine | 0.088 mol, 9.11 g | N1CCSCC1 | C4H9NS
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-(5-Bromo-2,6-dimethyl-3-nitro-4-pyridyl)-thiomorpholine | BrC=1C(=C(C(=NC1C)C)[N+](=O)[O-])N1CCSCC1 | C11H14BrN3O2S
